US07642276B2
N-Cyclopropyl-4-methyl-3-[1-(2-{[(4-methylphenyl)methyl]amino}-2-oxoethyl)-1H-indazol-5-yl]benzamide
Example 126 was prepared by General Method D using methyl (5-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-1H-indazol-1-yl)acetate Example 117) and 4-methylbenzylamine to give the title compound (0.010 g)

reactant | methyl (5-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-1H-indazol-1-yl)acetate | C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=C2C=NN(C2=CC1)CC(=O)OC)C | C21H21N3O3
reactant | 4-methylbenzylamine | CC1=CC=C(CN)C=C1 | C8H11N
product | N-Cyclopropyl-4-methyl-3-[1-(2-{[(4-methylphenyl)methyl]amino}-2-oxoethyl)-1H-indazol-5-yl]benzamide | 0.010 g | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN(C2=CC1)CC(=O)NCC1=CC=C(C=C1)C)=O | C28H28N4O2
